2128-12-04 06:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2128-12-3**] 10:45 AM
   -intubated for angioedema, edema only seen in mouth, not laryngeal
   -swithed from propofol to versed and fentanyl for continued aggitation
   on 100 propofol/hr
   Allergies:
   Erythromycin Base
   Rash;
   Penicillins
   Anaphylaxis;
   Codeine
   Anaphylaxis;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Egg
   Hives;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-12-3**] 04:00 PM
   Famotidine (Pepcid) - [**2128-12-3**] 07:53 PM
   Other medications:
   Albuterol
   Chlorhexidine
   ISS
   Methylprednisolone
   Diphenhydramine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-12-4**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 57 (56 - 93) bpm
   BP: 126/76(88) {119/67(80) - 160/105(117)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,630 mL
                                                                     58 mL
   PO:
             TF:
   IVF:
                                                                    630 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  1,425 mL
                                                                    430 mL
   Urine:
                                                                  1,425 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    205 mL
                                                                   -372 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway, No Spon Resp
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 46.6 cmH2O/mL
   SpO2: 100%
   ABG: ///24/
   Ve: 7.4 L/min
   Physical Examination
   Gen:  Medically sedated.  Not responding to verbal stimuli.
   HEENT:  Swollen lips.  asymetric swelling of the cheeks right greater
   than left.  Unable to properly assess oropharynx given swollen lips and
   OT tube.
   Heart:  S1S2 RRR, no MRG
   Lungs:  CTAB in ant lung fields, no wheezes or crackles
   Abdomen:  Obese, BS present, soft NTND, no appreciable
   mass/organomegaly
   Ext:  WWP, DP 2+, no edema
   Neuro: Limited due to sedation.  Pinpoint pupils.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   199 K/uL
   11.3 g/dL
   96 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.5 mEq/L
   12 mg/dL
   106 mEq/L
   138 mEq/L
   34.6 %
   5.0 K/uL
        [image002.jpg]
   WBC 5 to 11.3
   Na 138 to 144
   K 3.7
   Cr 0.6,
                            [**2128-12-3**]  09:40 AM
                            [**2128-12-3**]  09:48 AM
   WBC
   5.0
   Hct
   34.6
   Plt
   199
   Cr
   0.6
   Glucose
   97
   96
   Other labs: Differential-Neuts:60.0 %, Lymph:32.3 %, Mono:3.8 %,
   Eos:3.1 %, Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   52 y/o lady with hyptension presented to the Emergency Department with
   swollen tongue and funny feeling in her tongue and was intubated for
   airway protection.
   .
   # Angioedema:  Presentation consistent with anioedema and/or allergic
   reactioin.  Normal eos and only lip,cheeks,tongue swelling argues for
   angioedema.  Anesthesiologist who intubated her did not notice any
   airway swelling, all upper airway.  Has been on lisinopril since
   [**2127-1-23**].  History of using NSAIDS prn. No known new
   exposures.  SVC syndrome will be lower in the differential given no
   upper extremity swelling.  However she is on OCP.  No signs or symptoms
   of infection.
   -Swelling in lips, face, tongue greatly decreased today.
   - steroids solumedrol 125 IV q8h
   - diphenhydramine 50 IV q6h
   - famotidine 20 IV bid
   - appreciate allergy recs, ESR 20, will f/u on C4, C1 esterase inhib,
   TSH
   .
   # Intubation: For airway protection.
   -          remains on CMV [**1-24**] apnea with sedation. Switched to PS this
   am as sedation weaned
   -          touch base with anesthesia for presenses during extubation.
   -          Could cuff leak this am, edema greatly decreased should go
   ok.
   .
   # Multiple allergies:
   -          management as above.
   -          Document food exposure clearly after extubation.
   .
   # Hypertension:  Currently hypertensive.
   - will be careful in starting medication given allergy history and will
   not be able to clearly see whether she will become allergic.
   - would recommend short acting CCB, nifedipine
   .
   # hilar lymphadenopathy on  CXR:  Interesting incidental finding on
   CXR. Seen on previous films
   - needs out patient follow up, ? sarcoid. CT as outpatient
   .
   # Asthma:  Clear lung fields currently.
   - nebs prn
   .
   # Anemia: secondary to chonic uterine fibroids.
   - hold OCP during acute phase
   .
   # Prophylaxis: sc heparin tid; famotidine; ISS while on steroids
   .
   # FEN:  NPO for now; replete lytes prn
   .
   # Access: 2 PIV, NGT. Remove NGT with extubation
   .
   # Contact:  From [**Name (NI) 1337**].  Sister [**Name (NI) 588**] [**Name (NI) 3214**], [**Telephone/Fax (1) 3215**]
   .
   # Code: Full Code.
   .
   # Dispo: floor later today pending successful extubation
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   secondary to angioedema
 .H/O ASTHMA
 .H/O HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-12-4**] 01:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 52 yo F presents with angioedema, intubated
   for airway protection. Received steroids, H2B, benadryl, nebs. Ace-I
   held. Significant improvement in tongue and mucosal (lip) swelling
   overnight.
   Exam notable for Tm 99.8 BP 123/78 HR 57 RR 14 with sat 99-100% on ACV
   5540/14/5/40%--> now PS 5/5 (40%) . RSBI deferred earlier.
   Alert awake following commands, no evidence of tongue, lip edema, face
   symmetric, no stridor, CTA without wheeze, RR, obese, benign abd, no
   edema
   Labs notable for WBC 5-->11.3 K, HCT 35 , 144 na K+ 3.7 , Cr 0.6
   CXR with ET in position LAD in hilum, focal pna
   Issues include:
     * angioedema
     * respiratory failure (airway control)
     * asthma
     * htn
     * hilar LAD on cxr
   Agree with plan to continue vent wean with plan for extubation once
   sedation off. Will contact anesthesia regarding need for extubation
   over cook catheter
 pt has good cough leak and no clear evidence of
   vocal cord edema at time of intubation. Continue steroids
can reduce
   dose to 60 IV Q 6, H2B, benadryl. F Allergy input appreciated.  F/u
   allergy labs and recs.  Monitor BP as now off ace-i--if elevated start
   short acting [**Doctor Last Name **] (such as BB or calcium channel blocker).  Will need
   outpt ct chest for further eval of `hilar lad evident on cxr.
   Patient is critically ill
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2128-12-4**] 12:58 PM ------

2128-12-05 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2128-12-4**] 03:10 PM
   - extubated
   - allergy recs
   - no issues overnight
   - C1 esterase pends
   - cont on steroids, pepcid, benadryl
   Allergies:
   Erythromycin Base
   Rash;
   Penicillins
   Anaphylaxis;
   Codeine
   Anaphylaxis;
   Bactrim Ds (Oral) (Sulfamethoxazole/Trimethoprim)
   Rash;
   Egg
   Hives;
   Shellfish Derived
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2128-12-4**] 08:34 PM
   Heparin Sodium (Prophylaxis) - [**2128-12-5**] 12:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-12-5**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.8
   HR: 68 (59 - 130) bpm
   BP: 146/80(97) {118/70(82) - 172/108(112)} mmHg
   RR: 17 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 86.3 kg (admission): 87.7 kg
                  Total In:
                                                                  1,048 mL
                                                                    400 mL
   PO:
                                                                    720 mL
                                                                    400 mL
   TF:
   IVF:
                                                                    228 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                      0 mL
   Urine:
                                                                  1,065 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -17 mL
                                                                    400 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 6 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: ////
   Ve: 12 L/min
   Physical Examination
   Gen:  alert and oriented, pleasant and interactive, slightly raspy
   voice
   HEENT:  NCAT, MMM, anicteric, slight swelling in her right check
   otherwise no obvious signs of angioedema, of note tongue with teeth
   indentations on the sides, OP clear, no stridor
   Heart:  S1S2 RRR, no MRG
   Lungs:  CTAB, no wheezes or crackles
   Abdomen:  BS present, soft NTND
   Ext:  WWP, DP 2+, no edema
   Neuro: A&O x3, appropriate
   Labs / Radiology
   mg/dL
   mg/dL
    mEq/L
    mEq/L
   mg/dL
   mEq/L
        [image002.jpg]
   No AM labs today.
   C4 pending
   No new imaging
                            [**2128-12-3**]  09:40 AM
                            [**2128-12-3**]  09:48 AM
                            [**2128-12-4**]  06:00 AM
   WBC
   5.0
   11.3
   Hct
   34.6
   35.3
   Plt
   199
   204
   Cr
   0.6
   0.6
   Glucose
   97
   96
   134
   Assessment and Plan
   52 y/o lady with hyptension presented to the Emergency Department with
   swollen tongue and funny feeling in her tongue and was intubated for
   airway protection.
   .
   # Angioedema:  No clear etiology, although most likely would be
   lisinopril which was held on admission as well as NSAIDs. Today some
   mild right facial swelling but much improved overall since yesterday.
   Will continue with steroid treatment, switch to Po prednisone with
   taper.
   - po prednisone 60mg qd with 5 day taper
   - diphenhydramine po, famotidine po
   - f/u pending allergy labs
   -f/u allergy recs
   .
   # Multiple allergies: Consulted allergy. Will follow up recs and
   pending labs.
   .
   # Hypertension:  Currently hypertensive. Will start amlodipine po at
   low dose and monitor for a day prior to d/c.
   -          amlodipine 5mg po qd
   -          monitor BP
   .
   # hilar lymphadenopathy on  CXR:  Interesting incidental finding on
   CXR. Seen on previous films. Will email PCP to ensure this is followed
   up appropriately. Will likely need a chest CP as outpatient.
   .
   # Asthma:  Clear lung fields currently.
   - nebs prn
   .
   # Anemia: secondary to chonic uterine fibroids.
   - ok to restart OCP as unlikely to be cause of angioedema
   .
   # Prophylaxis: sc heparin tid; famotidine; ISS while on steroids
   .
   # FEN:  NPO for now; replete lytes prn
   .
   # Access: 2 PIV, NGT. Remove NGT with extubation
   .
   # Contact:  From [**Name (NI) 1337**].  Sister [**Name (NI) 588**] [**Name (NI) 3214**], [**Telephone/Fax (1) 3215**]
   .
   # Code: Full Code.
   .
   # Dispo: to floor for further BP management
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   secondary to angioedema
 .H/O ASTHMA
 .H/O HYPERTENSION, BENIGN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-12-4**] 01:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   [**Known lastname **]
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 52 yo F presents with angioedema, intubated
   for airway protection. Received steroids, H2B, benadryl, nebs. Ace-I
   held. Significant improvement in tongue and mucosal (lip) swelling.
   Extubated successfully yesterday.
   Exam notable for Tm 99.1 BP 146/80 HR 68 RR 12 with sat 99-100% on RA
   (40%) .
   Alert awake following commands, no evidence of tongue, lip edema, face
   appears assymmetric--+ mild edema at R cheek, no stridor, CTA without
   wheeze, RR, obese, benign abd
   Labs
no new, allergy labs pending
   CXR with ET in position LAD in hilum, no focal pna
   Issues include:
     * angioedema
     * respiratory failure (airway control) --extubated
     * asthma
     * htn
     * hilar LAD on cxr
   Angioedema largely resolved.  Still with mild R facial swelling.  Will
   continue benadryl, H2B.  Decrease steroids to prednisone 40 and taper
   over next few days. Remains on ISS while on steroids though needs
   should improved with decreased steroid dose.  Allergy input
   appreciated.  Allergy labs pending and will need allergy outpt f/u.  BP
   mildly elevated as holding ace-1.  Will start low dose calcium channel
   blocker.
   Stable for floor transfer.
   Will need outpt ct chest for further eval of hilar lad evident on cxr.
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 143**] [**Last Name (NamePattern1) 144**], MD
   on:[**2128-12-5**] 02:26 PM ------